US04303656
(c) 2-(N,N-dimethylaminomethyl)-4-(4-chlorophenyl)-3-chromene
A solution of 2-(N,N-dimethylaminomethyl)-4-hydroxy-4 (4'-chlorophenyl)-chroman (1.35 g) and tosic acid (10 mg) in benzene (75 ml) was heated under reflux with azeotropic removal of water for 31/2 hours. The solvent was removed under reduced pressure, the residue taken up in diethyl ether and washed with 2 N sodium hydroxide (20 ml). The organic phase was dried (MgSO4) and evaporated to give the title compound (1.08 g) as an oil.

reactant | 2-(N,N-dimethylaminomethyl)-4-hydroxy-4 (4'-chlorophenyl)-chroman | 1.35 g | CN(C)CC1OC2=CC=CC=C2C(C1)(C1=CC=C(C=C1)Cl)O | C18H20ClNO2
reactant | tosic acid | 10 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 2-(N,N-dimethylaminomethyl)-4-(4-chlorophenyl)-3-chromene | 1.08 g | CN(C)CC1OC2=CC=CC=C2C(=C1)C1=CC=C(C=C1)Cl | C18H18ClNO
